* C:\Users\Edwin\Downloads\SYNTHMANIA\VCA\Simulations\VCA\VCA.asc
V1 V+ 0 12
V2 0 V- 12
R1 AGND 0 1
XU1 AGND N004 V+ V- N005 NE5532
V3 in 0 SINE(0 5 10k)
R2 N004 in 10k
R3 N005 N004 10k
Q1 N007 N009 N010 0 BC847A
Q2 N003 0 N010 0 BC847A
R5 V+ N007 15k
R6 V+ N003 15k
C1 V- AGND 100n
C2 V+ AGND 100n
XU2 N008 N001 V+ V- out NE5532
C3 V- AGND 100n
C4 V+ AGND 100n
R7 N008 N007 10k
R8 N001 N003 10k
R9 N008 AGND 100k
R10 out N001 100k
R11 N009 AGND 1k
R12 N009 N005 100k
V4 N002 0 5V
C5 V+ AGND 100n
V5 CV 0 SINE(5 5 200)
R4 N011 CV 10k
R13 V+ N014 27k
R14 N014 V- 31k
Q4 AGND basis N013 0 BC847A
R15 N010 N013 33k
R16 N013 V- 15k
R17 basis N014 22k
R18 basis N012 50k
XU3 AGND N011 V+ V- N012 NE5532
R19 N012 N011 10k
C6 V- AGND 100n
C7 V+ AGND 100n
D1 N006 NC_01 D
D2 N006 NC_02 D
R20 NC_03 V- 33k
R21 NC_04 V- 33k
R22 V+ N006 100k
.model D D
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0 1u
.include NE5532.sub
.lib ADI1.lib
.backanno
.end
