* C:\Users\Edwin\Downloads\SYNTHMANIA\VCA\Simulations\VCA\VCA.asc
V1 V+ 0 12
V2 0 V- 12
R1 AGND 0 1
XU1 AGND N003 V+ V- N004 NE5532
V3 in 0 SINE(0 4 15k 1m)
R2 N003 in 10k
R3 N004 N003 10k
Q1 N007 N009 N011 0 BC847A
Q2 N006 N010 N011 0 BC847A
R5 V+ N007 10k
R6 V+ N006 10k
C1 V- AGND 100n
C2 V+ AGND 100n
XU2 N008 N002 V+ V- out NE5532
C3 V- AGND 100n
C4 V+ AGND 100n
R7 N008 N007 10k
R8 N002 N006 10k
R9 N008 AGND 100k
R10 out N002 100k
R11 N009 AGND 100
R12 N009 N004 10k
V4 N005 0 5V
C5 V+ AGND 100n
V5 CV 0 PULSE(0 12 2m 1n 1n 1m 2m 10)
R4 N012 CV 10k
R13 V+ N016 28k
R14 N016 V- 31k
Q4 AGND basis N015 0 BC847A
R15 N011 N015 33k
R16 N015 V- 15k
R17 basis N016 30k
R18 basis N013 47k
XU3 AGND N012 V+ V- N013 NE5532
R19 N013 N012 10k
C6 V- AGND 100n
C7 V+ AGND 100n
D1 N001 N009 1N4148
D2 N001 N010 1N4148
R20 N009 V- 100k
R21 N010 V- 100k
R22 V+ N001 100k
R23 N010 AGND 100
C8 N013 N012 1n
C9 N004 N003 270p
C10 out N002 27p
R24 N008 N014 470k
R25 V+ N014 10k
R26 N014 V- 90k
.model D D
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0 1u
.include NE5532.sub
* https://sound-au.com/project213.htm
* https://yusynth.net/Modular/Commun/VCA/VCA-sch.gif
* fg = 19409Hz
* fg = 19409Hz
.lib ADI1.lib
.backanno
.end
