* C:\Users\Edwin\Downloads\SYNTHMANIA\VCA\Simulations\VCA\VCA.asc
V1 V+ 0 12
V2 0 V- 12
R1 AGND 0 1
V3 in 0 SINE(0 5 10k 1m)
Q1 N008 N011 N014 0 BC847A
Q2 N009 N012 N014 0 BC847A
R5 N005 N008 10k
R6 N006 N009 10k
XU2 N010 N004 V+ V- out NE5532
C3 V- AGND 100n
C4 V+ AGND 100n
R7 N010 N009 10k
R8 N004 N008 10k
R9 N010 AGND 100k
R§10k out N004 100k
R11 N011 AGND 100
R12 N011 in 10k
V4 N007 0 5V
C5 N005 AGND 100n
V5 CV 0 PULSE(0 12 2m 1n 1n 1m 2m 10)
R4 N015 CV 10k
R13 V+ N021 28k
R14 N021 V- 31k
Q4 AGND basis N019 0 BC847A
R15 N014 N019 33k
R16 N019 V- 15k
R17 basis N021 30k
R18 basis N016 47k
XU3 AGND N015 V+ V- N016 NE5532
R19 N016 N015 10k
C6 V- AGND 100n
C7 V+ AGND 100n
D1 N003 N011 1N4148
D2 N003 N012 1N4148
R20 N011 V- 10k
R21 N012 V- 10k
R22 V+ N003 100k
R23 N012 AGND 100
C8 N016 N015 1n
C§27p out N004 10p
R24 N010 N018 470k
XU4 AGND N001 V+ V- N002 NE5532
R27 N001 NC_01 10k
R28 N002 N001 10k
C11 V- AGND 100n
C12 V+ AGND 100n
C13 N002 N001 270p
R2 V+ N005 500
R3 N006 V+ 500
R10 V+ N013 10k
R29 N013 V- 90k
R30 N017 N018 {(1-pot_offset)*R_pot_offset}
R31 N018 N020 {pot_offset*R_pot_offset}
R32 V+ N017 1k
R33 N020 AGND 8k2
.model D D
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0 1u
.include NE5532.sub
* https://sound-au.com/project213.htm
* https://yusynth.net/Modular/Commun/VCA/VCA-sch.gif
* fg = 19409Hz
* fg = 19409Hz
.param pot_offset = 0.3
.param R_pot_offset = 1k
.lib ADI1.lib
.backanno
.end
